US05760032
5-Fluoroindole-2-carboxylic acid (0.50 g) and 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole ditosylate (2.07 g) were dissolved in dimethylformamide (40 ml). Triethylamine (1.6 ml) and 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate (Bop reagent, 1.29 g) were added under ice-cooling, and the mixture was stirred for 4 hours. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with an aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the obtained residue was crystallized from ethyl acetate to give 0.23 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-5-fluoroindole-2-carboxamide.

reactant | 5-Fluoroindole-2-carboxylic acid | 0.50 g | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole ditosylate | 2.07 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.S(=O)(=O)(O)C1=CC=C(C)C=C1.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | Triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.29 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-5-fluoroindole-2-carboxamide | 0.23 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2NC3=CC=C(C=C3C2)F)C=CC=C1 | C26H21ClFN5O2S
